* simulation.cir
* Testbench for HP Memristor
.options savecurrents
.save all

.include "hp_memristor.cir"

* Voltage source
.param Vin = ${VOLTAGE_IN}
.param Vlast = ${VOLTAGE_LAST}
V1 in 0 PULSE(VOLTAGE_LAST VOLTAGE_IN 0 1u 1u 1m 3m)

* Memristor
XMEM in out memristor 
+ Ron=1k 
+ Roff=100k 
+ Rinit=80k 
+ D=10n 
+ uv=10f 
+ p=1

* Load resistor
Rload out 0 1k

.tran 1u 100m uic

.control

run
write simulation.raw
quit

.endc
.end
