* Generating a crossbar with:
*Rows: 5
*Columns: 5

.include "hp_memristor.cir"

* Input Voltages
.param VIN0=1.2
.param VIN1=3.2999999999999998
.param VIN2=5
.param VIN3=4.2999999999999998
.param VIN4=2.1000000000000001
VROW0 row0 0 DC {VIN0}
VROW1 row1 0 DC {VIN1}
VROW2 row2 0 DC {VIN2}
VROW3 row3 0 DC {VIN3}
VROW4 row4 0 DC {VIN4}

* Memristor Array
X00 row0 col0 memristor PARAMS: Rinit=1000
X01 row0 col1 memristor PARAMS: Rinit=1000
X02 row0 col2 memristor PARAMS: Rinit=1000
X03 row0 col3 memristor PARAMS: Rinit=1000
X04 row0 col4 memristor PARAMS: Rinit=1000
X10 row1 col0 memristor PARAMS: Rinit=1000
X11 row1 col1 memristor PARAMS: Rinit=1000
X12 row1 col2 memristor PARAMS: Rinit=1000
X13 row1 col3 memristor PARAMS: Rinit=1000
X14 row1 col4 memristor PARAMS: Rinit=1000
X20 row2 col0 memristor PARAMS: Rinit=3000
X21 row2 col1 memristor PARAMS: Rinit=3000
X22 row2 col2 memristor PARAMS: Rinit=3000
X23 row2 col3 memristor PARAMS: Rinit=3000
X24 row2 col4 memristor PARAMS: Rinit=3000
X30 row3 col0 memristor PARAMS: Rinit=5000
X31 row3 col1 memristor PARAMS: Rinit=5000
X32 row3 col2 memristor PARAMS: Rinit=5000
X33 row3 col3 memristor PARAMS: Rinit=5000
X34 row3 col4 memristor PARAMS: Rinit=5000
X40 row4 col0 memristor PARAMS: Rinit=4000
X41 row4 col1 memristor PARAMS: Rinit=4000
X42 row4 col2 memristor PARAMS: Rinit=4000
X43 row4 col3 memristor PARAMS: Rinit=4000
X44 row4 col4 memristor PARAMS: Rinit=4000

* Column Loads
RLOAD0 col0 0 50
RLOAD1 col1 0 50
RLOAD2 col2 0 50
RLOAD3 col3 0 50
RLOAD4 col4 0 50

* Simulation
.tran 1n 100n uic
.control
run
print v(col0)
print v(col1)
print v(col2)
print v(col3)
print v(col4)

.endc
.end