* This is completely ai generated to be honest
* Custom Behavioral Memristor Model
.subckt custom_memristor plus minus state_node
* Internal state capacitor to store value 'w'
Cstate state_node 0 1IC=0.1

* Example behavioral state derivative derivative equation (dw/dt)
* Gbar represents the rate of change based on voltage across plus and minus
Gstate 0 state_node value={V(plus,minus) * 1e3}

* Behavioral current equation (I = V / R(w))
* Resistance varies inversely with the voltage at 'state_node'
Gmem plus minus value={V(plus,minus) / (100 + (10000 * (1 - V(state_node))))}
.ends custom_memristor
